US07176242B2
To an ice-cold stirred solution of methyl 4-hydroxy-3-[(1E)-N-hydroxybutanimidoyl]benzoate (170 mg, 0.7 mmol) in diethyl ether (5 mL) was added a mixture of thionyl chloride (60 μL, 0.8 mmol) and pyridine (580 μL, 7.2 mmol) in diethyl ether (5 mL). After 2.5 h the mixture was poured over ice-water and acidified to pH=1 with 1 N hydrochloric acid. The mixture was then partitioned between water and ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, dried (sodium sulfate), filtered, and concentrated under reduced pressure to afford a crude oil. Purification by flash column chromatography (silica, 10:1 hexanes/ethyl acetate) provided methyl 3-propyl-1,2-benzisoxazole-5-carboxylate (90 mg): 1H NMR (300 MHz, CDCl3): δ 8.36–8.35 (m, 1H), 8.07–8.04 (m, 1H), 7.52–7.49 (m, 1H), 3.95 (s, 3H), 2.96–2.91 (m, 2H), 2.00–1.87 (m, 2H), 1.09–1.04 (m, 3H).

reactant | methyl 4-hydroxy-3-[(1E)-N-hydroxybutanimidoyl]benzoate | 0.7 mmol, 170 mg | OC1=C(C=C(C(=O)OC)C=C1)\C(\CCC)=N\O | C12H15NO4
reactant | thionyl chloride | 0.8 mmol, 60 μL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 7.2 mmol, 580 μL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | methyl 3-propyl-1,2-benzisoxazole-5-carboxylate | 90 mg | C(CC)C1=NOC2=C1C=C(C=C2)C(=O)OC | C12H13NO3
